US07572795B2
1. 2-(benzyloxy)acetic acid silver salt
To a solution of 2-(benzyloxy)acetic acid (3.58 g, 21.5 mmol) in water (108 mL) at 0° C. was added aqueous NaOH (1.000N, 21.5 mmol). The cold bath was removed, and the reaction was stirred to room temperature for 0.25 h. After the reaction vessel was wrapped in aluminum foil, a solution of silver nitrate (4.07 g, 24.0 mmol) in water (40 mL) was added over 10 min. After 1 h, the precipitate was filtered, washed and dried over P2O5 in a dessicator to give the title compound as an off-white solid (4.90 g, 84% yield).

reactant | 2-(benzyloxy)acetic acid | 21.5 mmol, 3.58 g | C(C1=CC=CC=C1)OCC(=O)O | C9H10O3
reactant | NaOH | 21.5 mmol, 1.000N | [OH-].[Na+]
reactant | silver nitrate | 24.0 mmol, 4.07 g | [N+](=O)([O-])[O-].[Ag+]
solvent | water | 108 mL | O | H2O
solvent | water | 40 mL | O | H2O
product | 2-(benzyloxy)acetic acid silver salt | 4.90 g, 84% yield | [Ag+].C(C1=CC=CC=C1)OCC(=O)[O-] | InChI=1S/C9H10O3.Ag/c10-9(11)7-12-6-8-4-2-1-3-5-8;/h1-5H,6-7H2,(H,10,11);/q;+1/p-1
